US07985755B2
4-(2,4-Diamino-quinazolin-5-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester (16.4 g; 44.0 mmol) was suspended in 80 mL of dioxane and 4M HCl in dioxane (176 mL, 176 mmol) was added changing the mixture from homogenous to heterogenous. After 5 hrs of stirring at room temperature, solids were filtered off and rinsed once with ether. Solids were triturated with 1 N NaOH for 30 minutes. Solids were collected by filtration and dried to yield 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine. (9.05 g; 75% yield).

reactant | 4-(2,4-Diamino-quinazolin-5-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 44.0 mmol, 16.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C19H27N5O3
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 176 mmol, 176 mL | O1CCOCC1 | C4H8O2
product | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 75% yield | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
